datasets/RMG-dataset.csv
rxn,Ea
[H:0].[N:1][N:2]([H:3])[H:4]>>[H:0][H:3].[N:1]=[N:2][H:4],-3.72376
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:5])[H:8])([H:6])[H:7],140.206
[C:0]([S:1][C:2]=[S:3])([H:4])([H:5])[H:6]>>[C:0]([H:4])([H:5])[H:6].[S:1]=[C:2]=[S:3],44.51776
[N:0]#[C:1][O:2][H:3].[N:4]([H:5])[H:6]>>[H:3][N:4]([H:5])[H:6].[N:0]#[C:1][O:2],152.477512
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0]([S:1][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:2])([H:3])[H:4].[H:5],69.4544
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15](=[S:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:17])[H:8])([H:6])[H:7].[C:15](=[S:16])[H:18],113.386
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([C:10]([H:18])([H:19])[H:20])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:14])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10]([H:18])([H:19])[H:20])([H:11])([H:12])[H:13],62.3416
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24],-16.736
[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3](=[O:4])[O:5][O:6][H:11])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1](=[C:2]([H:9])[H:10])[C:3](=[O:4])[O:5]1.[O:6][H:11],78.3663
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:9][O:16][C:15]([H:17])([H:18])[H:19],19.125064
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8],-14.2256
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25])[H:11])([H:9])[H:10],45.773
[O:0][O:1][H:2].[O:3][O:4][H:5]>>[H:2][O:3][O:4][H:5].[O:0][O:1],-13.7026
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:21])([H:22])[H:23])[H:20])[H:19])[H:18])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([H:16])([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]1([C:10]([H:21])([H:22])[H:23])[H:20])[H:11],88.8682
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:21]([H:22])([H:23])[H:24])[H:12])[H:11],27.0705
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:32]([H:33])([H:34])[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][C:32]([H:33])([H:34])[H:35],22.92832
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:9])[H:4].[C:7]([C:8]([H:12])([H:13])[H:14])([H:10])[H:11],86.1904
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[O:22][H:23]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][O:22][H:23],-11.2968
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:18]([C:17]([H:21])([H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:9])([H:7])[H:8],19.623
